US04077956
(d) 5-Hydroxy-1,3-dimethyl-1H-dipyrazolo[1,5-a:4',3'-e]pyrazine-6-carboxylic acid, ethyl ester
50 gms. of 1-(1,3-dimethyl-4-nitro-1H-pyrazol-5-yl)-1H-pyrazole-4,5-dicarboxylic acid, diethyl ester, are hydrogenated with 0.2 gms. of palladium-carbon in 100 ml. of glacial acetic acid at 60° until the uptake of hydrogen stops. On cooling, the product, 5-hydroxy-1,3-dimethyl-1H-dipyrazolo[1,5-a:4',3'-e]pyrazine-6-carboxylic acid, ethyl ester, crystallizes in the form of white filamentous needles. On evaporating the solvent, the product is recrystallized from dimethylformamide, yield 22 gms. of white needles, m.p. 246°-247°.

reactant | 1-(1,3-dimethyl-4-nitro-1H-pyrazol-5-yl)-1H-pyrazole-4,5-dicarboxylic acid, diethyl ester | CN1N=C(C(=C1N1N=CC(=C1C(=O)OCC)C(=O)OCC)[N+](=O)[O-])C | C14H17N5O6
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | [C].[Pd]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-Hydroxy-1,3-dimethyl-1H-dipyrazolo[1,5-a:4',3'-e]pyrazine-6-carboxylic acid, ethyl ester | OC=1C=2N(C3=C(N1)C(=NN3C)C)N=CC2C(=O)OCC | C12H13N5O3
